US08242153B2
c) (2S)-2-Amino-5-phenyl-hexan-1-ol
To a solution of (E)-(2S)-2-amino-5-phenyl-hex-4-en-1-ol (180 mg) in methanol (25 ml) at room temperature was added 10% palladium on charcoal (50 mg). The mixture was stirred under an atmosphere of hydrogen (1 atm) at room temperature for 2 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to yield a colourless oil, (160 mg, 88%); MS (ISP): 194.3 ([M+H]+).

reactant | (E)-(2S)-2-amino-5-phenyl-hex-4-en-1-ol | 180 mg | N[C@H](CO)C\C=C(/C)\C1=CC=CC=C1 | C12H17NO
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | (2S)-2-Amino-5-phenyl-hexan-1-ol | N[C@H](CO)CCC(C)C1=CC=CC=C1 | C12H19NO
